US06706703B2
1,4-Bis[5-(4-t-butylphenyl)-2-pyridyl]hexahydro-1,4-diazepine
Following the procedure of Example 1, crude crystals were obtained from the 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine (206.0 mg, 0.500 mmol) synthesized in Reference Example 1 and 4-t-butylphenylboronic acid (226.0 mg, 1.20 mmol). The crude crystals were recrystallized from chloroform-hexane to yield the title compound as colorless needles (melting point: 268.0-270.0° C.) (117.0 mg, yield: 42%).

reactant | 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine | 0.500 mmol, 206.0 mg | BrC=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)Br | C15H16Br2N4
reactant | 4-t-butylphenylboronic acid | 1.20 mmol, 226.0 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 1,4-Bis[5-(4-t-butylphenyl)-2-pyridyl]hexahydro-1,4-diazepine | 117.0 mg, yield: 42% | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C | C35H42N4
